US05652271
A solution of sodium hydroxide (16.4 g) in water (16.5 ml) was added dropwise under nitrogen at 0° C. to a stirred solution of S-[4-(dimethylamino)butyl]-isothiourea dihydrochloride (51 g) in water (60 ml), then the mixture was heated at 95° C. for 2 hours and allowed to cool to ambient temperature. Water (100 ml) was added, and the product was extracted into ether (50 ml), dichloromethane (3×50 ml), and ether (2×50 ml). The combined organic solutions were dried over magnesium sulphate, then the solvents were removed in vacuo. The residue was dissolved in ether and the solution was saturated with hydrogen chloride. The resulting solid was collected by filtration and dried in vacuo at ambient temperature to give 4-(dimethylamino)butanethiol hydrochloride as a white solid (21 g) which was used without further purification.

reactant | sodium hydroxide | 16.4 g | [OH-].[Na+]
reactant | S-[4-(dimethylamino)butyl]-isothiourea dihydrochloride | 51 g | Cl.Cl.CN(CCCCSC(N)=N)C
solvent | water | 16.5 ml | O | H2O
solvent | water | 60 ml | O | H2O
solvent | Water | 100 ml | O | H2O
product | 4-(dimethylamino)butanethiol hydrochloride | 21 g | Cl.CN(CCCCS)C | InChI=1S/C6H15NS.ClH/c1-7(2)5-3-4-6-8;/h8H,3-6H2,1-2H3;1H
